US07141583B2
(5R)-3-(4-(1-Benzyl-1,2,5,6-tetrahydropyridin-4-yl)-3-fluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one
(5R)-3-(4-(1-Benzyl-1,2,5,6-tetrahydropyridin-4-yl)-3-fluorophenyl)-5-azidomethyl-oxazolidin-2-one (4.55 g, 11.2 mM) and norbornadiene (5.15 g, 56 mM) were dissolved in dioxan (50 ml) and heated under reflux for 4 hours. The reaction mixture was evaporated and the product isolated by MPLC on silica, eluting with 5% methanol in dichloromethane. Relevant fractions were combined and evaporated to give the desired product as a gum which crystallised on trituration with diethyl ether (2.9 g).

reactant | (5R)-3-(4-(1-Benzyl-1,2,5,6-tetrahydropyridin-4-yl)-3-fluorophenyl)-5-azidomethyl-oxazolidin-2-one | 11.2 mM, 4.55 g | C(C1=CC=CC=C1)N1CC=C(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN=[N+]=[N-])=O)F | C22H22FN5O2
reactant | norbornadiene | 56 mM, 5.15 g | C12=CC=C(CC1)C2 | C7H8
solvent | dioxan | 50 ml | O1CCOCC1 | C4H8O2
product | (5R)-3-(4-(1-Benzyl-1,2,5,6-tetrahydropyridin-4-yl)-3-fluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one | C(C1=CC=CC=C1)N1CC=C(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN1N=NC=C1)=O)F | C24H24FN5O2
